US08604061B2
b) (S)-2,2-Dimethyl-4-[2-(6-trifluoromethyl-pyridin-2-yl)-ethyl]-oxazolidine-3-carboxylic acid tert-butyl ester
To a solution of (S)-2,2-dimethyl-4-(6-trifluoromethyl-pyridin-2-ylethynyl)-oxazolidine-3-carboxylic acid tert-butyl ester (0.58 g, 1.56 mmol) in methanol (8 ml) were added ammonium formate (0.983 g, 15.6 mmol) and palladium on charcoal (10% Pd, 0.58 g). The mixture was refluxed for 1 hour. After cooling the solid was filtered off, the filtrate was evaporated and the residue was purified by column chromatography (SiO2, heptane/EtOAc=7:3 to yield a light colourless liquid, (0.538 g, 92%); MS (ISP): 375.5 ((M+H)+/).

reactant | (S)-2,2-dimethyl-4-(6-trifluoromethyl-pyridin-2-ylethynyl)-oxazolidine-3-carboxylic acid tert-butyl ester | 1.56 mmol, 0.58 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1C#CC1=NC(=CC=C1)C(F)(F)F)(C)C | C18H21F3N2O3
reactant | ammonium formate | 15.6 mmol, 0.983 g | C(=O)[O-].[NH4+]
solvent | methanol | 8 ml | CO | CH4O
catalyst | palladium on charcoal | 0.58 g | [Pd] | Pd
product | (S)-2,2-Dimethyl-4-[2-(6-trifluoromethyl-pyridin-2-yl)-ethyl]-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CCC1=NC(=CC=C1)C(F)(F)F)(C)C | C18H25F3N2O3
